US07402672B2
3-(3,5-Dimethyl-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-21
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(3,5-dimethylphenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-21 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.45 (bs, 1H), 8.45 (dd, 1H, J=1.2, 4.5 Hz), 8.12 (bs, 1H), 7.90 (dd, 1H, J=1.2, 8.0 Hz) overlapping with (bs, 1H), 7.3 (dd, 1H, J=4.5, 8.2 Hz), 6.76 (s, 1H), 6.7 (s, 2H), 2.05 (s, 6H). MS Obs 298.3 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(3,5-dimethylphenyl)disulfide | 1.1 equiv | CC=1C=C(C=C(C1)C)SSC1=CC(=CC(=C1)C)C | C16H18S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(3,5-Dimethyl-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | CC=1C=C(C=C(C1)C)SC1=C(NC=2C1=NC=CC2)C(=O)N | C16H15N3OS
